US04965260
a. 4-(N-allyloxycarbonylaminomethyl)-phenoxyacetic acid
0.97 g of 4-aminomethylphenoxyacetic acid is suspended in 15 ml of water, 2.4 ml of 5N NaOH solution are added thereto and, after cooling with ice, 0.63 ml of chloroformic acid allyl ester is added thereto over a period of 5 minutes After removing the cooling bath, the reaction mixture is stirred at room temperature for 20 minutes. The reaction mixture is then washed twice with ethyl acetate, and the aqueous phase is adjusted to pH 2 with 4N HC1 and extracted with ethyl acetate. The organic solution is washed with brine and dried over sodium sulphate. The title compound is obtained after evaporating off the solvent.

reactant | 4-aminomethylphenoxyacetic acid | 0.97 g | NCC1=CC=C(OCC(=O)O)C=C1 | C9H11NO3
reactant | NaOH | 5N, 2.4 ml | [OH-].[Na+]
reactant | chloroformic acid allyl ester | 0.63 ml | C(C=C)OC(=O)Cl | C4H5ClO2
solvent | water | 15 ml | O | H2O
product | 4-(N-allyloxycarbonylaminomethyl)-phenoxyacetic acid | C(C=C)OC(=O)NCC1=CC=C(OCC(=O)O)C=C1 | C13H15NO5
